US04504305
EXAMPLE 20: 2-[1-(allyloxyimino)butyl]-3-hydroxy-5-(4-methylthiophenyl)-2-cyclohexen-1-one
Into 20 ml of ethanol was dissolved 1.5 g of 2-butyryl-3-hydroxy-5-(4-methylthiophenyl)-2-cyclohexen-1-one and to the solution was added 0.5 g of allyloxyamine. The mixture was kept for 15 hours at room temperature and it was poured into ice water. The crystal sedimented was collected with a filtering step and recrystallized with methanol. Thus, 1.4 g of colorless objective crystals having a melting point of 72°-74° C. was obtained.

reactant | 2-butyryl-3-hydroxy-5-(4-methylthiophenyl)-2-cyclohexen-1-one | 1.5 g | C(CCC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)SC)=O | C17H20O3S
reactant | allyloxyamine | 0.5 g | C(C=C)ON | C3H7NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[1-(allyloxyimino)butyl]-3-hydroxy-5-(4-methylthiophenyl)-2-cyclohexen-1-one | C(C=C)ON=C(CCC)C=1C(CC(CC1O)C1=CC=C(C=C1)SC)=O | C20H25NO3S
